US09169246B2
Step 6.7. 8-fluoro-7-(pyrid-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride
The product is obtained according to the procedure described in Step 1.7. by treating 8-fluoro-7-(pyrid-2-yl)-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one with HCl in dioxane (4M). It is in the form of a white powder (hydrochloride; yield 75%).

reactant | 8-fluoro-7-(pyrid-2-yl)-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | FC1=CC=2C3=C(C(N(C2C=C1C1=NC=CC=C1)CC(F)(F)F)=O)CN(N3)C3OCCCC3 | C22H20F4N4O2
reactant | HCl | Cl | ClH
solvent | dioxane | 4M | O1CCOCC1 | C4H8O2
product | 8-fluoro-7-(pyrid-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride | yield 75% | Cl.FC1=CC=2C3=C(C(N(C2C=C1C1=NC=CC=C1)CC(F)(F)F)=O)C=NN3 | InChI=1S/C17H10F4N4O.ClH/c18-12-5-10-14(6-9(12)13-3-1-2-4-22-13)25(8-17(19,20)21)16(26)11-7-23-24-15(10)11;/h1-7H,8H2,(H,23,24);1H
